US07659540B2
b) Synthesis of 2,7-dibromo-9-keto-10-(2-ethylhexyl)-10-methoxydihydrophenanthrene (Monomer M9)
3.3 g (81.5 mmol) of NaH (60% dispersion in mineral oil) in 30 ml of DMSO were introduced into a 500 ml four-necked flask with mechanical stirrer, condenser, thermometer and dropping funnel which had been dried by heating. 21.6 g (54.3 mmol) of 2,7-dibromo-9-keto-10-(2-ethylhexyl)-10-hydroxydihydrophenanthrene in 60 ml of DMSO were slowly added dropwise, and the mixture was stirred at room temperature for 30 min. 5.1 ml (81.5 mmol) of methyl iodide were then added dropwise over the course of 1 h with ice cooling. The mixture was stirred at room temperature for 2 days, then cooled to 5° C., 90 ml of semi-conc. NH4OH were added dropwise, 100 ml of MeOH were added dropwise, the mixture was stirred in an ice bath for 30 min, and the product was filtered off with suction, washed with MeOH and dried at 60° C. in a vacuum drying cabinet. The crude product was recrystallised a number of times from methanol. The total yield was 17.3 g (65% of theory) with a purity of >99.8%. 1H-NMR (CDCl3): [ppm]=8.16 (d, 4JHH=2.3 Hz, 1H), 7.78 (m, 4H), 7.56 (dd, 3JHH=8.7 4JHH=2.3 Hz, 2H), 3.17 (s, 3H), 1.71 (m, 2H), 1.26 (m, 1H), 1.06 (m, 8H), 0.77 (m, 3H), 0.59 (m, 3H).

reactant | NaH | 81.5 mmol, 3.3 g | [H-].[Na+]
reactant | 2,7-dibromo-9-keto-10-(2-ethylhexyl)-10-hydroxydihydrophenanthrene | 54.3 mmol, 21.6 g | BrC1CC=2C(C(C3=CC(=CC=C3C2C=C1)Br)=O)(O)CC(CCCC)CC | C22H26Br2O2
reactant | methyl iodide | 81.5 mmol, 5.1 ml | CI | CH3I
reactant | NH4OH | [NH4+].[OH-]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
solvent | MeOH | 100 ml | CO | CH4O
product | 2,7-dibromo-9-keto-10-(2-ethylhexyl)-10-methoxydihydrophenanthrene | BrC1CC=2C(C(C3=CC(=CC=C3C2C=C1)Br)=O)(OC)CC(CCCC)CC | C23H28Br2O2
